US08557805B2
2-{2-[5-{[5-(Methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}ethanol
Ethyl{2-[5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate (207 mg) was dissolved in tetrahydrofuran (5 mL)-methanol (2 mL), lithium tetrahydroborate (22 mg) was added under ice-cooling, and the mixture was stirred at room temperature for 50 min. To the reaction solution were added lithium tetrahydroborate (32 mg) and methanol (1 mL), and the mixture was stirred at room temperature for 1 hr. Furthermore, lithium tetrahydroborate (15 mg) was added, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (methanol:ethyl acetate:hexane=0:50:50 to 20:80:0, volume ratio) to give the title compound as a yellow amorphous solid (99 mg, yield 52%). The obtained amorphous solid was crystallized from diethyl ether, and the obtained crystals were recrystallized from ethyl acetate-diethyl ether to give the title compound as colorless crystals.

reactant | Ethyl{2-[5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 207 mg | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC1=NC=C(C=C1)S(=O)(=O)C)OC1CCOCC1)=O | C26H29N3O7S2
reactant | lithium tetrahydroborate | 22 mg | [BH4-].[Li+]
reactant | lithium tetrahydroborate | 32 mg | [BH4-].[Li+]
reactant | lithium tetrahydroborate | 15 mg | [BH4-].[Li+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 2-{2-[5-{[5-(Methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}ethanol | 99 mg, yield 52% | CS(=O)(=O)C=1C=CC(=NC1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CCO | C24H27N3O6S2
